US06884821B1
0.27 g of ethyl 2-(4-methoxy-3-{2-oxo-2-[2,4-dichloroanilino]ethyl}benzyl)butanoate was dissolved in 10 ml ethanol, and 1 ml of 5 N sodium hydroxide was added. After stirring the reaction solution at room temperature for 24 hours, water was added thereto and the aqueous layer was extracted with diethyl ether. The aqueous layer was acidified with hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was washed with brine, dried over anhydrous magnesium sulfate and the solvent was evaporated, to give 2-(4-methoxy-3-{2-oxo-2-[2,4-dichloroanilino]ethyl}benzyl)butanoic acid as a colorless oil.

reactant | ethyl 2-(4-methoxy-3-{2-oxo-2-[2,4-dichloroanilino]ethyl}benzyl)butanoate | 0.27 g | COC1=C(C=C(CC(C(=O)OCC)CC)C=C1)CC(NC1=C(C=C(C=C1)Cl)Cl)=O | C22H25Cl2NO4
reactant | sodium hydroxide | 5 N, 1 ml | [OH-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(4-methoxy-3-{2-oxo-2-[2,4-dichloroanilino]ethyl}benzyl)butanoic acid | COC1=C(C=C(CC(C(=O)O)CC)C=C1)CC(NC1=C(C=C(C=C1)Cl)Cl)=O | C20H21Cl2NO4
